US07700594B2
A solution of methyl trans-4-(8-chloroimidazo[1,5-a]pyrazin-3-yl)cyclohexanecarboxylate (4.0 g, 0.014 mol) in toluene (300 mL) and THF (70 mL) was cooled to 0° C. and treated with a 3.0 M solution of methylmagnesium bromide in ether (14 mL) maintaining the temperature at 0° C. The mixture was stirred at rt for 1.5 hours then cooled to 0° C. and an additional 3 eq of 3.0 M of methylmagnesium bromide in ether was added. The mixture was stirred at rt for 15 minutes then cooled to 0° C. and quenched with 1:1 NH4Cl sat.:H2O (50 mL total volume). The organic layer was separated and the aqueous layer was extracted with EtOAc (3×30 mL). The combined organic layers were dried over sodium sulfate and concentrated in vacuo and the crude product thus obtained, chromatographed over silica gel eluting with EtOAc to afford desired 2-[trans-4-(8-chloroimidazo[1,5-a]pyrazin-3-yl)cyclohexyl]propan-2-ol. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.14-1.39 (m, 8H), 1.41-1.60 (m, 1H), 1.77-1.98 (m, 2H), 2.01-2.20 (m, 4H), 2.78-3.06 (m, 1H), 7.35 (d, J=5.05 Hz, 1H), 7.64 (d, J=5.05 Hz, 1H) and 7.83 (s, 1H).

reactant | methyl trans-4-(8-chloroimidazo[1,5-a]pyrazin-3-yl)cyclohexanecarboxylate | 0.014 mol, 4.0 g | ClC=1C=2N(C=CN1)C(=NC2)[C@@H]2CC[C@H](CC2)C(=O)OC | C14H16ClN3O2
reactant | methylmagnesium bromide | C[Mg]Br
reactant | methylmagnesium bromide | 3.0 M, 3 eq | C[Mg]Br
reactant | ether | 14 mL | CCOCC | C4H10O
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 2-[trans-4-(8-chloroimidazo[1,5-a]pyrazin-3-yl)cyclohexyl]propan-2-ol | ClC=1C=2N(C=CN1)C(=NC2)[C@@H]2CC[C@H](CC2)C(C)(C)O | C15H20ClN3O
